US05424472
A solution of 35 g hexanethiol in 140 mL 10% aqueous sodium hydroxide solution was added dropwise under ice cooling to a solution of 49.9 g methacrylic acid anhydride (stabilized with 1,000 ppm 4-methyl-2,6-di-t-butylphenol) in 450 ml MTBE. Following completion of the dropwise addition, the mixture was stirred 3 hr at 40° C. The organic phase was separated out and washed with water. After drying with sodium sulfate and removal of the solvent, the material was distilled to yield methacryloylthiohexane (boiling point 65° C. at 0.3 mbar). Yield: 83% of theoretical. The structure was confirmed by NMR, GC-MS, and IR.

reactant | hexanethiol | 35 g | C(CCCCC)S | C6H14S
reactant | methacrylic acid anhydride | 49.9 g | C(C(=C)C)(=O)OC(C(=C)C)=O | C8H10O3
solvent | sodium hydroxide | 140 mL | [OH-].[Na+]
solvent | MTBE | 450 ml | CC(C)(C)OC | C5H12O
product | methacryloylthiohexane | Yield: 83% | C(C(=C)C)(=O)SCCCCCC | C10H18OS
